Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Demerol / Erythromycin Base / Augmentin / Penicillins
 
Attending: ___
 
Chief Complaint:
Difficulty speaking
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman hx of peptic
ulcer disease, duodenal adenoma with low-grade dysplasia, 
hepatic
steatosis, mesenteric ischemia (___), heterozygosity for factor
V Leiden, hypertension, hyperlipidemia, elevated A1c,
sleep-disordered breathing, spinal
stenosis, severe on narcotic agreement, osteoarthritis bilateral
knees, osteoporosis, primary hyperparathyroidism and recurrent
hyperparathyroidism status post two surgeries who presents with 
2
episodes of transient expressive aphasia.

Briefly, patient was in her usual state of health until 
yesterday
morning when she woke up with a headache.  She describes the
headache as pressure-like,  located bifrontally,  not associated
with photo phonophobia no nausea no emesis.  She took some
Tylenol and headache improved but was not completely gone.  
Later
that day she drove home from the ___ and spent some time for
grandkids when she suddenly had difficulty getting her words 
out.
She said she knew what she wanted to say but could not say it, 
and when she said something that would come out garbled.  this
lasted <1 minute and then self resolved.  She denies any
associated focal weakness, numbness, vertigo, diplopia or
difficulty with gait.  After this episode headache got slightly
worse again and she took another Tylenol.  It again improved
headache somewhat but she kept on having a dull headache
throughout the day.  Several hours later she again had another
episode where she had trouble getting her words out similar to
previous episode.  It again lasted less than 1 minute and self
resolved and was not associated with any other focal 
neurological
symptoms.  She called her PCP who recommended to come to the
emergency room for further evaluation.
Of note patient said she has a history of headaches but they
usually located in the back and a secondary to her known C-spine
disease.  She does get some muscle tension type headache.  She
gets them several times per week.  She never had any focal
neurological symptoms associated with her headaches. The current
headache is  different.  She denies having taking more of her
narcotics than usual and has actually been cutting down over the
past few months. No recent changes in the past few weeks.  

Of note she said several years ago she had an event while at a
funeral where she lost peripheral vision unclear if bot eyes or
unilateral.  she went to see an ophthalmologist who told her 
this
was most likely due to cerebral vasospasm.  She had no further
workup.

Regarding her coagulopathy:
She has a  history of ischemic colitis in ___, in setting of
spinal procedure. She was diagnosed with protein c deficiency at
that time and was started on oral anticoagulation. She was then
seen by heme here who questioned the diagnosis in the absence of
personal or strong family history of venous thromboembolism,
She was taken off of anticoagulation on ___, and completed a hypercoagulability workup, which 
returned positive for heterozygosity for factor V Leiden. Her
protein c and s levels were normal, and no other abnormalities
were identified.  She has not been on anticoagulation since 
___.
She is not even on ASA at this time. 

 

 
Past Medical History:
B12 DEFICIENCY ANEMIA                                           
GASTROINTESTINAL                                                
HYPERCOAGULOPATHY                                               
CARDIOVASCULAR                                                  
MICROSCOPIC HEMATURIA                                           
NARCOTICS AGREEMENT                                             
OSTEOPOROSIS                                                    
RECLAST                                                         
SLEEP DISORDERED BREATHING                                      
TRIGGER FINGER                                                  
ACTINIC KERATOSIS                                               
ANGIOMA, SKIN                                                   
MILIUM                                                          
SCAR                                                            
SEBACEOUS HYPERPLASIA                                           
SEBORRHEIC KERATOSIS                                            
SUN DAMAGED SKIN, CHRONIC                                       
MUSCULOSKELETAL                                                 
SURGICAL HISTORY                                                
ENDOCRINE                                                       
H/O ULCER              
 
Social History:
KNEE REPLACEMENT                                      ___   
left                                                            

CESAREAN SECTION                                                
X's 3                                                           

TONSILLECTOMY                                                   

LEFT KNEE MENISECTOMY                                           

OVARIAN CYSTECTOMY                                              

PARATHYROIDECTOMY                                               

Social History:
Children:           Yes: 2 daughter, 1 son                      
Lives with:         ___ Children                  
Work: ___
Tobacco use:        Former smoker                               
     Year Quit:     ___                                        
     Years Since    ___                                          
     Quit:                                                      
Alcohol use:        Denies                                      
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
      

Comments:           Caffeine: decaf coffee 2 cup/day, Diet Coke 
                    caffeine free ___ glass/day.    

 
Family History:
Family History :
Relative Status   Age Problem              Onset Comments       
Mother   ___ ___  PULMONARY EMBOLISM                        
                      VENA CAVA LIGATION                        
                      HYPERTENSION                              
                      MYOCARDIAL                                
                      INFARCTION                                

Father   ___ ___  PANCREATIC CANCER                         
                      SNORING                                   

Daughter Living   ___  PROTEIN C DEFICIENCY                      
                      FACTOR V LEIDEN                           
                      HYPERHOMOCYSTEINEMIA                      
                      PATENT FORAMEN OVALE                      
                      OSTEOPOROSIS                              
                      LYMPHEDEMA                 post op        

Daughter Living   ___  PROTEIN C DEFICIENCY                      
                      ATRIAL SEPTAL DEFECT                      
                      TRANSIENT ISCHEMIC                        
                      ATTACK                                    

Son      Living   ___  HEALTHY                                   

Brother               SLEEP APNEA                uses PAP       

Comments: Siblings: B factor V Leiden, DM2, HTN, lymphoma,      
          depression. S DM2, HTN. Nephew had an intracerebral   
          bleed at age ___, etiology unknown.                    

 
Physical Exam:
EXAM ON ADMISSION:
- BP 187/98, HR 107
- General: Awake, cooperative, NAD.
- HEENT: NC/AT
- Neck: Supple
- Pulmonary: no increased WOB
- Cardiac: well perfused 
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated
- Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. Fundoscopic
exam revealed no papilledema.
III, IV, VI: EOMI with couple of beat extinguishable end gaze
nystagmus.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___
L  5    ___   5  5  *5-   5   *5-  5     5     5   5
R  5    ___   5  5  *5-   5   *5-  5     5     5   5 

*pain limited due to know chronic back pain

-DTRs: deferred  
      
-___: No deficits to light touch, pinprick throughout. No
extinction to DSS.

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  

EXAM ON DISCHARGE:

Physical exam:
Gen: Sitting up in bed, well-appearing, appears stated age. 
HEENT: NCAT, conjunctival nonicteric and noninjected, MMM
CV:  RRR
Resp: Comfortable in room air, no increased work of breathing.
Extr: Warm, well-perfused. No overt rashes or skin lesions. 

Neuro:
MS: Alert, awake, fully oriented. Able to relate history without 
difficulty. Speech is fluent. Able to name high and low 
frequency objects. Repetition intact of simple and complex 
sentences. Serial sevens backwards down to ___. Able to 
demonstrate how to comb hair, brush teeth and button shirt. 
Follows simple and complex commands.
CN: Pupil post surgical on R (cataract surgery). Purples 2.5-> 
bilaterally. Few betas nystagmus on L gaze. No gaze restriction. 
Face symmetric at rest and with activation. Tongue strength full 
and symmetric. 
Motor;  Subtle pronation bilaterally.
RUE: Delt 5, Bi 5, Tri  5, WE 5, FE 5, FF 5
LUE: Delt 5-, Bi 5, Tri 5, WE 5, FE 5, FF 5
RLE: IP 4, Quad 5, Ham 5-
LLE: IP 4-, Quad 5-, Ham 5-
Sensory: Intact to light touch in all extremities.
Reflexes: Toes mute bilaterally. 
Coordination: FNF intact bilaterally
Gait: Deferred

 
Pertinent Results:
___ 04:50AM BLOOD WBC-7.7 RBC-4.63 Hgb-13.3 Hct-40.9 MCV-88 
MCH-28.7 MCHC-32.5 RDW-13.9 RDWSD-44.9 Plt ___
___:42PM BLOOD WBC-5.7 RBC-4.67 Hgb-13.7 Hct-41.2 MCV-88 
MCH-29.3 MCHC-33.3 RDW-14.0 RDWSD-45.1 Plt ___
___ 03:42PM BLOOD Neuts-61.9 ___ Monos-7.6 Eos-2.5 
Baso-0.4 Im ___ AbsNeut-3.51 AbsLymp-1.54 AbsMono-0.43 
AbsEos-0.14 AbsBaso-0.02
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-144 
K-4.3 Cl-102 HCO3-28 AnGap-14
___ 03:42PM BLOOD ALT-16 AST-16 AlkPhos-76
___ 04:50AM BLOOD Calcium-9.8 Phos-3.7 Mg-2.0
___ 03:58PM BLOOD %HbA1c-5.9 eAG-123
___ 03:42PM BLOOD Triglyc-170* HDL-40* CHOL/HD-4.4 
LDLcalc-102

IMAGING
Final Report 
EXAMINATION:  MR HEAD W/O CONTRAST T___ MR HEAD 
  
INDICATION:  ___ year old woman with episode of transient 
expressive aphasia// 
Stroke 
  
TECHNIQUE:  Sagittal T1 weighted imaging was performed. Axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then 
obtained. 
  
COMPARISON  CTA head with without contrast of ___.  
MRI head with 
without contrast of ___. 
  
FINDINGS:  
  
There is no intra or extra-axial mass, acute hemorrhage or 
infarct. The sulci, 
ventricles and cisterns are within expected limits for the 
patient's mild 
senescent related global cerebral volume loss.  There are very 
minimal 
periventricular and subcortical T2/FLAIR white matter 
hyperintensities 
predominantly along the bilateral frontal lobes, nonspecific and 
unchanged 
from prior examination, but commonly seen in the setting of 
chronic 
microangiopathy in a patient of this age.  The major 
intracranial flow voids 
are preserved.  There is mild mucosal thickening of the ethmoid 
air cells.  
The orbits are unremarkable, noting right lens replacement.  No 
significant 
fluid signal is noted in the mastoid air cells. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality on noncontrast MRI head.  
Specifically no 
intracranial hemorrhage or acute infarct. 
2. Additional chronic findings as described above. 

EXAMINATION:  CTA HEAD WANDW/O C AND RECONSQ1213CTHEAD 
  
INDICATION:  History: ___ with factor V leiden, 2 aphasic 
episodes and HA// 
Please perform CTA and CTV to rule out venous thrombosis 
  
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain 
without contrast material.  Next, rapid axial imaging was 
performed through 
the brain during the uneventful infusion of 70 mL of 
Omnipaque350 intravenous 
contrast material. Three-dimensional angiographic volume 
rendered and 
segmented images were then generated on a dedicated workstation. 
This report 
is based on interpretation of all of these images. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP = 
802.7 mGy-cm. 
   2) Stationary Acquisition 3.5 s, 0.5 cm; CTDIvol = 38.1 mGy 
(Head) DLP = 
19.1 mGy-cm. 
   3) Spiral Acquisition 3.1 s, 24.7 cm; CTDIvol = 30.4 mGy 
(Head) DLP = 750.3 
mGy-cm. 
   4) Spiral Acquisition 3.1 s, 24.7 cm; CTDIvol = 30.4 mGy 
(Head) DLP = 751.6 
mGy-cm. 
 Total DLP (Head) = 2,324 mGy-cm. 
  
COMPARISON:  ___ MR head with without contrast 
  
FINDINGS:  
  
CT HEAD WITHOUT CONTRAST: 
The ventricles, sulci, and cisterns appear normal.  A few small 
areas of low 
attenuation within the subcortical periventricular white matter 
nonspecific, 
but likely reflect the sequela of mild chronic small vessel 
disease.  There is 
no large acute infarct, acute intracranial hemorrhage, or mass 
effect. 
  
There is a right lens implant.  The orbits are otherwise 
unremarkable. 
  
The paranasal sinuses, middle ear cavities, and mastoid air 
cells are clear.  
There is no depressed calvarial fracture.  There is anterior 
subluxation of 
the left TMJ and moderate atlantoaxial osteoarthritis. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal with no evidence of stenosis, occlusion, or 
aneurysm.  
Incidental note is made of a fetal type right PCA, a normal 
variant.  The 
dural venous sinuses are patent. 
  
IMPRESSION:   
1. No acute intracranial hemorrhage.  Probable mild chronic 
small vessel 
disease. 
2. Normal CTA head. 
3. Normal CTV head.  No evidence of cortical or dural venous 
sinus thrombosis. 

 
Brief Hospital Course:
P: ___ F w/ HTN, HLD, who presented with 2 brief (<1 min) 
episodes of word finding difficulty.
A: She was admitted for TIA workup. Her neurologic examination 
was entirely normal during admission. Her clinical syndrome 
seemed low likelihood of TIA; seizure was another possibility. 
MRI noncontrast was negative for acute stroke, and CTA negative 
for stenosis or occlusion. She was discharged with follow up in 
Neurology clinic as well as outpatient orders for TTE and EEG.
C: Her home medications were continued.
T: 
[ ] We suggested the patient start aspirin 81mg daily for 
primary stroke and cardiovascular prevention.
[ ] The patient was ordered for TTE and EEG to be performed as 
outpatient.
[ ] The patient will follow up in Neurology clinic for further 
evaluation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
2. Vitamin D ___ UNIT PO EVRY OTHER WEEK 
3. Vagifem (estradiol) 10 mcg vaginal BID 
4. fluticasone 50 mcg/actuation  inhalation BID:PRN 
5. Hydrochlorothiazide 12.5 mg PO DAILY:PRN sbp > 140 
6. Lisinopril 40 mg PO DAILY 
7. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN BREAKTHROUGH PAIN 
8. meloxicam 7.5 mg oral DAILY:PRN 
9. Pravastatin 40 mg PO QPM 
10. Calcium Carbonate 3000 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Calcium Carbonate 3000 mg PO DAILY  
3.  Cyanocobalamin 1000 mcg IM/SC MONTHLY  
4.  fluticasone 50 mcg/actuation  inhalation BID:PRN  
5.  Hydrochlorothiazide 12.5 mg PO DAILY:PRN sbp > 140  
6.  HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN BREAKTHROUGH PAIN  
7.  Lisinopril 40 mg PO DAILY  
8.  meloxicam 7.5 mg oral DAILY:PRN pain  
9.  Pravastatin 40 mg PO QPM  
10.  Vagifem (estradiol) 10 mcg vaginal BID  
11.  Vitamin D ___ UNIT PO EVRY OTHER WEEK  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient word finding difficulty

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for a few brief episodes of 
word finding difficulty and trouble with articulation. It is 
unclear what these episodes were; most likely, they were 
harmless. You had an MRI of your brain that did not show any 
large strokes or masses. However, there is a small chance that 
these episodes represented a Transient Ischemic Attack (TIA), 
which is a mini-stroke and happens when a part of your brain 
briefly loses blood flow and oxygen, leading to symptoms. To 
prevent future stroke or heart disease, we suggest you start 
taking a daily aspirin 81mg daily. Another possibility is small 
seizures.

We will order a few outpatient tests including an EEG (brain 
wave study to look for an increased risk of seizures) and an 
echocardiogram (TTE, an ultrasound of your heart to measure the 
health of your heart). You will be contacted for a follow up 
appointment in the Neurology clinic after these tests to discuss 
the results.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___